US06242470B1
N-(1H-Indol-4-yl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 1b) from 1-adamantaneacetyl chloride (0.074 g) and 4-aminoindole hydrochloride (0.059 g) to give the title compound as a white solid (0.068 g).

reactant | 1-adamantaneacetyl chloride | 0.074 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
reactant | 4-aminoindole hydrochloride | 0.059 g | Cl.NC1=C2C=CNC2=CC=C1
product | N-(1H-Indol-4-yl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 0.068 g | N1C=CC2=C(C=CC=C12)NC(CC12CC3CC(CC(C1)C3)C2)=O | C20H24N2O
